US05721234
6-Nitro-9-pyrrolidin-1-yl-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione
A mixture of 9-pyrrolidin-1-yl-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione hydrochloride (35 mg) in trifluoroacetic acid (2 mL) was cooled in an ice bath and treated with 0.5 mL fuming nitric acid. After 2 h at room temperature, the solvent was evaporated and the residue suspended in acetone:water, and the resulting solid collected by filtration (35 mg). Calc'd for C16H18N4O4.HCl: C, 52.39; H, 5.22; H, 15.27; found: C, 42.95; H, 4.69; N, 16.28. MS M+1 (331).

reactant | 9-pyrrolidin-1-yl-1,4,7,8,9,10-hexahydrobenzo[f]quinoxaline-2,3-dione hydrochloride | 35 mg | Cl.N1(CCCC1)C1CCC2=C(C=3NC(C(NC3C=C2)=O)=O)C1
reactant | nitric acid | 0.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Nitro-9-pyrrolidin-1-yl-1,4,7,8,9,10-hexahydro-benzo[f]quinoxaline-2,3-dione | [N+](=O)([O-])C=1C2=C(C=3NC(C(NC3C1)=O)=O)CC(CC2)N2CCCC2 | C16H18N4O4
